US08039472B2
3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-[(S)-3-phenyl-2-(toluene-4-sulfonylamino)-propionyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide
To a solution of Tosyl-L-phenylalanine (1.0 g, 3.13 mmol) in DMF (25 ml) is added N-methyl morpholine (1.033 ml, 9.39 mmol) and 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride (Ex. 38) (1.37 g, 3.44 mmol), followed by HATU (1.31 g, 3.44 mmol) and the resulting solution is stirred at room temperature for 20 minutes. The crude product is diluted with water (300 ml) and the resultant solid is isolated. Purification by reverse phase chromatography (Isolute™ C18, 0-100% MeCN in water −0.1% TFA) followed by catch and release resin (SCX-2) eluted with MeOH and 7M NH3 in MeOH yields a yellow solid which is triturated with MeOH and diethyl ether to give the title compound as a free base. The free base is stirred in 5M HCl at 100° C. for 30 minutes forming a gum. MeOH (5 ml) is added to the gum and then all solvent is removed in vacuo. The residue is triturated with MeOH and diethyl ether to give the title compound; [M+H]+ 626.4; 1H NMR (DMSO-d6): 1.12-1.71 (4H, m), 2.36-2.38 (3H, s), 2.59-2.83 (2H, m), 2.93-3.52 (4H, m), 3.41-3.60 (2H, m), 4.42 (1H, m), 7.12 (2H, d, J=6.9 Hz), 7.17-7.28 (3H, m), 7.35 (2H, d, J=7.7 Hz), 7.54-7.37 (2H, br), 7.57 (2H, d, J=7.7 Hz), 8.12 (1H, d, J=9.0 Hz), 7.70-8.26 (2H, br), 9.22 (1H, s), 9.95 (1H, s), 10.99 (1H, s).

reactant | Tosyl-L-phenylalanine | 3.13 mmol, 1.0 g | S(=O)(=O)(C1=CC=C(C)C=C1)N[C@@H](CC1=CC=CC=C1)C(=O)O | C16H17NO4S
reactant | N-methyl morpholine | 9.39 mmol, 1.033 ml | CN1CCOCC1 | C5H11NO
reactant | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide dihydrochloride | 3.44 mmol, 1.37 g | Cl.Cl.N1\C(\NCC12CCNCC2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl
reactant | HATU | 3.44 mmol, 1.31 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | water | 300 ml | O | H2O
product | 3,5-Diamino-6-chloro-pyrazine-2-carboxylic acid [8-[(S)-3-phenyl-2-(toluene-4-sulfonylamino)-propionyl]-1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide | C1(=CC=CC=C1)C[C@@H](C(=O)N1CCC2(CN/C(/N2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl)CC1)NS(=O)(=O)C1=CC=C(C=C1)C | C28H32ClN9O4S
